US04167576
B. 2-(4-Phenylthiophenyl)hexanenitrile
To a mixture of 41 g (0.18 mole) of 4-phenylthiobenzyl cyanide, 18 g (0.19 mole) of butyl chloride and 2 g of tetraethylammonium bromide is added 16 g (0.2 mole) of 50% sodium hydroxide solution dropwise at room temperature with stirring. The reaction mixture is heated at 85° for 1/2 hour and then an additional 16 g (0.2 mole) of 50% sodium hydroxide solution are added. Heating is continued for another 1/2 hour. The reaction mixture is poured into water and extracted with ether. The combined ether extracts are washed with water, saturated sodium chloride solution and dried over MgSO4. Solvent is evaporated to give 47 g of a crude product. Vacuum distillation (173°-180°/0.05 mm) gives 33 g of pure product.

reactant | 4-phenylthiobenzyl cyanide | 0.18 mole, 41 g | C1(=CC=CC=C1)SC1=CC=C(CC#N)C=C1 | C14H11NS
reactant | butyl chloride | 0.19 mole, 18 g | C(CCC)Cl | C4H9Cl
reactant | sodium hydroxide | 0.2 mole, 16 g | [OH-].[Na+]
reactant | sodium hydroxide | 0.2 mole, 16 g | [OH-].[Na+]
catalyst | tetraethylammonium bromide | 2 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | water | O | H2O
product | 2-(4-Phenylthiophenyl)hexanenitrile | 33 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)C(C#N)CCCC | C18H19NS
